US07456200B2
To a mixture of 3-Chlorobenzoic acid (5.0 g, 31.9 mmol), serine methylester hydrochloride (6.1 g, 31.9 mmol) and HOBt (4.31 g, 31.9 mmol) in DMF (100 ml) was added N-methylmorpholine (NMM) (7.0 ml, 63.8 mmol) and EDCI (4.97 g, 31.9 mmol) at 0° C. The mixture was allowed to warm to room temperature and stirred for 18 h. The mixture was diluted with ethyl acetate (300 ml) and then washed with water (3×250 ml) followed by brine. The organic extract was dried over Na2SO4 (anhydrous) and then concentrated in vacuo giving 2-(3-Chloro-benzoylamino)-3-hydroxy-propionic acid methyl ester (7.2 g, 93%) of a pale yellow solid. 1H NMR (CDCl3) d (ppm): 7.78 (s, 1 H), 7.66 (d, 1 H), 7.45, (dd, 1 H), 7.34 (t, 1 H), 7.25 (br, d, 1 H), 4.82 (m, 1 H), 4.08 (m, 2 H), 3.79 (s, 3 H), 3.19 (br, t, 1 H).

reactant | 3-Chlorobenzoic acid | 31.9 mmol, 5.0 g | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | serine methylester hydrochloride | 31.9 mmol, 6.1 g | Cl.COC([C@@H](N)CO)=O
reactant | HOBt | 31.9 mmol, 4.31 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 63.8 mmol, 7.0 ml | CN1CCOCC1 | C5H11NO
reactant | EDCI | 31.9 mmol, 4.97 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-(3-Chloro-benzoylamino)-3-hydroxy-propionic acid methyl ester | 7.2 g, 93% | COC(C(CO)NC(C1=CC(=CC=C1)Cl)=O)=O | C11H12ClNO4
